US06642389B2
In analogy to the procedures described in examples 114 b], c] and d], vanilline was reacted with methanesulfonic acid 2-(5-methyl-2-phenyl-oxazol-4-yl)-ethyl ester [PCT Int. Appl. (2000) WO0008002] to give 3-methoxy-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzaldehyde. Treatment of 3-methoxy-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzaldehyde with (benzyloxycarbonyl-methoxy-methyl)-triphenyl-phosphonium chloride then gave 2(Z,E)-methoxy-3-{3-methoxy-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-acrylic acid benzyl ester, which was hydrogenated to yield [rac]-2-methoxy-3-{3-methoxy-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-propionic acid as colorless solid.

reactant | vanilline | COC=1C=C(C=CC1O)C=O | C8H8O3
reactant | methanesulfonic acid 2-(5-methyl-2-phenyl-oxazol-4-yl)-ethyl ester | CC1=C(N=C(O1)C1=CC=CC=C1)CCOS(=O)(=O)C | C13H15NO4S
product | 3-methoxy-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-benzaldehyde | COC=1C=C(C=O)C=CC1OCCC=1N=C(OC1C)C1=CC=CC=C1 | C20H19NO4
